US03957833
6.4 g of 1-[(3-methyl-2-butenyl)oxy]-4-propargyloxy-benzene is dissolved in 80 ml of methylenechloride and cooled to 0°C. (ice-bath cooling). 7.15 g of 80% by weight m-chloroperbenzoic acid is added portionwise to this mixture and the solution is thereafter stirred at 0°C. for 2 hours. The mixture is worked up as follows: diluted with 350 ml of methylene chloride; washed with ice-cold 1-N caustic soda; washed with saturated aqueous sodium chloride solution; dried over sodium sulfate; and evaporated. By chromatography on Kieselgel, there is obtained 1-[(2,3-epoxy-3-methylbutyl)oxy]-4-propargyloxy-benzene; M.P. 72°-73°C.

reactant | 1-[(3-methyl-2-butenyl)oxy]-4-propargyloxy-benzene | 6.4 g | CC(=CCOC1=CC=C(C=C1)OCC#C)C | C14H16O2
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylenechloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
product | 1-[(2,3-epoxy-3-methylbutyl)oxy]-4-propargyloxy-benzene | O1C(COC2=CC=C(C=C2)OCC#C)C1(C)C | C14H16O3
